US08067592B2
To a stirred solution of 2-bromo-6-methoxybenzothiazole (0.67 g) in dry dichloromethane (30 ml) at ambient temperature under an atmosphere of nitrogen was added dropwise a solution of boron tribromide in dichloromethane (5.5 ml, 1M). The mixture was stirred for 2 hours at ambient temperature, stored for 2 days then poured into water. The organic phase was separated, washed with water, dried over magnesium sulphate then evaporated under reduced pressure to give 2-bromo-6-hydroxybenzothiazole as a pale pink solid, 0.60 g, m.p. 203-204° C.

reactant | 2-bromo-6-methoxybenzothiazole | 0.67 g | BrC=1SC2=C(N1)C=CC(=C2)OC | C8H6BrNOS
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1M, 5.5 ml | ClCCl | CH2Cl2
product | 2-bromo-6-hydroxybenzothiazole | BrC=1SC2=C(N1)C=CC(=C2)O | C7H4BrNOS
